US05198446
Preparation of N-[(benzyldimethylsilyl)methyl]pyrrolidine hydrochloride
9.9 g of chloromethyl-benzyl-dimethylsilane and 8.9 g of pyrrolidine are refluxed in 40 ml of xylene for 6 hours, then the reaction mixture is washed 5 times with a total of 250 ml of water at room temperature. The organic phase is dried over anhydrous magnesium sulfate, filtered and the filtrate is evaporated to solvent-free. The slightly yellow oily residue is dissolved in 20 ml of ethyl acetate and the solution is acidified to pH 4.5 by adding ethanolic hydrogen chloride solution. After drying the precipitate the named product is obtained in a yield of 11.3 g (94%), m.p.: 140°-140.5° C.

reactant | chloromethyl-benzyl-dimethylsilane | 9.9 g | ClC[Si](C)(C)CC1=CC=CC=C1 | C10H15ClSi
reactant | pyrrolidine | 8.9 g | N1CCCC1 | C4H9N
solvent | xylene | 40 ml | C=1(C(=CC=CC1)C)C | C8H10
product | N-[(benzyldimethylsilyl)methyl]pyrrolidine hydrochloride | Cl.C(C1=CC=CC=C1)[Si](C)(C)CN1CCCC1 | InChI=1S/C14H23NSi.ClH/c1-16(2,13-15-10-6-7-11-15)12-14-8-4-3-5-9-14;/h3-5,8-9H,6-7,10-13H2,1-2H3;1H
